US07462721B2
For example, methyl 3-amino-2-diphenylmethoxybenzoate A28.8 is reacted, as described above, with 2-bromo-4-methylpyridine-3-carboxaldehyde A28.9 (Arkivoc, 2000, 1, 52) to produce after cyclization, the tricyclic ester A28.10. The ester is then reacted with trimethylaluminum and N-methylcyclobutylmethylamine A28.11 to give 9-benzhydryloxy-4-methyl-benzo[b][1,8]naphthyridine-8-carboxylic acid cyclobutylmethyl-methyl-amide A28.12. Benzylic bromination then gives the bromomethyl analog A28.13. The latter compound is heated at 120° C. with excess of a trialkyl phosphite to produce after deprotection the phosphonate A28.14.

reactant | methyl 3-amino-2-diphenylmethoxybenzoate | NC=1C(=C(C(=O)OC)C=CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19NO3
reactant | 2-bromo-4-methylpyridine-3-carboxaldehyde | BrC1=NC=CC(=C1C=O)C | C7H6BrNO
reactant | trimethylaluminum | C[Al](C)C
reactant | N-methylcyclobutylmethylamine | CNCC1CCC1 | C6H13N
product | 9-benzhydryloxy-4-methyl-benzo[b][1,8]naphthyridine-8-carboxylic acid cyclobutylmethyl-methyl-amide | C1(CCC1)CN(C(=O)C=1C=CC=2C(=NC=3N=CC=C(C3C2)C)C1OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H31N3O2
